US07273865B2
To a stirred solution of 27.5 g (132 mmol) 5-methoxy-2-morpholin-4-yl-pyridin-4-ylamine in 400 ml acetone was added dropwise 19.5 ml (145 mmol) benzoyl isothiocyanate at room temperature. The reaction mixture then heated at reflux for 90 min before being cooled to room temperature and poured onto 400 ml hexane and stirred for 5 min. The resulting crystals were collected by filtration, washed with hexane and dried to afford 32.5 g (66%) 1-benzoyl-3-(5-methoxy-2-morpholin-4-yl-pyridin-4-yl)-thiourea as a brown crystalline solid. ES-MS m/e (%): 373 (M+H+, 100).

reactant | 5-methoxy-2-morpholin-4-yl-pyridin-4-ylamine | 132 mmol, 27.5 g | COC=1C(=CC(=NC1)N1CCOCC1)N | C10H15N3O2
reactant | benzoyl isothiocyanate | 145 mmol, 19.5 ml | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | hexane | 400 ml | CCCCCC | C6H14
solvent | acetone | 400 ml | CC(=O)C | C3H6O
product | 1-benzoyl-3-(5-methoxy-2-morpholin-4-yl-pyridin-4-yl)-thiourea | 32.5 g, 66% | C(C1=CC=CC=C1)(=O)NC(=S)NC1=CC(=NC=C1OC)N1CCOCC1 | C18H20N4O3S
